US09120749B2
[6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl](cyclopropyl)methanone
Following general procedure D, (6-bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone (35 mg, 0.084 mmol) was reacted with 2-chloro-6-methoxy-4-(3,3,4,4-tetramethylborolan-1-yl)phenol (42 mg, 0.150 mmol) to afford the desired product (29.1 mg, 70%) as an off-white solid: 1H NMR (500 MHz, CDCl3) δ 8.75 (s, 1H), 8.30 (s, 1H), 8.07-7.99 (m, 2H), 7.31 (d, J=2.0 Hz, 1H), 7.25 (d, J=1.9 Hz, 1H), 4.00 (s, 3H), 3.54 (d, J=12.4 Hz, 2H), 3.22 (t, J=12.2 Hz, 2H), 2.59-2.50 (m, 1H), 2.43 (d, J=6.2 Hz, 2H), 2.35 (s, 6H), 2.01-1.83 (m, 3H), 1.67-1.53 (m, 2H), 1.35-1.27 (m, 2H), 1.27-1.19 (m, 2H); ESI MS m/z 494 [C28H32ClN3O3+H]+; HPLC 98.9% (AUC), tR=10.51 min.

reactant | (6-bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone | 0.084 mmol, 35 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN(C)C | C21H26BrN3O
reactant | 2-chloro-6-methoxy-4-(3,3,4,4-tetramethylborolan-1-yl)phenol | 0.150 mmol, 42 mg | ClC1=C(C(=CC(=C1)B1CC(C(C1)(C)C)(C)C)OC)O | C15H22BClO2
product | [6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl](cyclopropyl)methanone | 29.1 mg, 70% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN(C)C | C28H32ClN3O3
